Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Back pain 
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ with PMH dementia and HTN, transferred from ___ for
NSTEMI. She apparently presented from her nursing home to the ED
with upper back pain x2 days with vomiting per nursing home
staff. 

Pt has advanced dementia and cannot recall this story. She 
cannot
remember why she is here, and currently denying chest pain, abd
pain, dyspnea. Per ___ records: "Family initially unsure
of wishes, wanted second trop. Then, pt voiced wanting possible
cath, HCP who is son wants to go by these wishes."

Transferred to ___ for possible coronary angiography. 
In the ED,
- Initial vitals:  T 97.8  HR 48  BP 103/63  RR 18  SpO2 98% RA

- EKG:  sinus rhythm with TWI in I, V4-V6.

- Labs/studies notable for:  
___ labs:
Trop 0.14 -> 0.26 -> 0.35
Ca: 10.9
PTT: 28.5
CXR: negative for pneumonia. no widened mediastinum

 
Past Medical History:
- Hypertension  
- Chronic kidney disease 
- Dementia 
 
Social History:
___
Family History:
non-contributory 

 
Physical Exam:
Admission physical:
T:97.5 BP: 131 / 75 R Lying HR: 48 RR: 18 ___: 98 ra 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

Discharge physical Exam: 
VS: T 97.5, BP 123/78, HR 86, RR 18, O2 sat 94% on RA 
WEIGHT: ___: 50.6 kg, 111.5 lb
GEN: Sitting up in bed eating breakfast, NAD
NEURO: A&O x 2 (states name, month, unable to state year, states
in hospital but states "because I fell",  pleasantly confused 
and
forgetful. Speech clear, tongue midline, no pronator drift. ___
strength to bilateral arms and right leg. Left leg with 
decreased mobility, lifts off bed, weight bears, but guards. No 
pain to palpation today and passive
motion. No decreased muscular tone. 
HEENT:  normocephalic, MMM, supple, trachea midline, no JVD 
CV: RRR, S1S2, no MRG
PULM: LS clear, decreased bases, no resp distress.
ABD:  soft, nontender, BS x4
EXT: No edema bilaterally, 2+ ___, DP, radial pulses. 
SKIN: warm, dry, intact, no open lesions

 
Pertinent Results:
Admission labs:
------------------
___ 01:24AM cTropnT: 0.35* 
___ 07:23AM cTropnT: 0.26* 
___ 03:00PM cTropnT: 0.17* 

___ 01:24AM 
WBC-12.4* Hgb-12.6 Hct-38.9  Plt ___ PTT-144.1* ___
Glucose-140* UreaN-27* Creat-1.2* Na-137 K-5.0 Cl-101 HCO3-22 
AnGap-14
Calcium-10.6* Phos-3.3 Mg-1.3* Cholest-164
Triglyc-48 HDL-58 CHOL/HD-2.8 LDLcalc-96
%HbA1c-5.7 eAG-117

TTE (___): IMPRESSION: Suboptimal image quality. Mild
symmetric left ventricular hypertrophy with mild regional
systolic dysfunction most consistent with single vessel coronary
artery disease (distal LAD distribution). LVEF 50%. 

XRAY Left pelvis, femur, knee (___):
IMPRESSION:  Diffuse demineralization, limits sensitivity for
evaluation of subtle nondisplaced fractures. Evidence of
bilateral total hip arthroplasties. Atherosclerotic vascular
calcifications are view degenerative changes of the lumbosacral
spine. Evaluation of sacrum is limited due to overlying bowel 
gas
shadow. Surgical clips overlying the left pelvis.  No evidence 
of
periprosthetic lucency or fracture. Degenerative changes of the
knee joint. Chondrocalcinosis along the lateral compartment.
Fracture superior patellar enthesophytes, likely chronic. No
large joint effusion. 

 
Brief Hospital Course:
___ woman with a past medical history significant for 
dementia and hypertension transferred from ___ for NSTEMI 
after complaining of back pain and follow-up vomiting at nursing 
home. Troponin peak 0.35 with ECG with TWI of unknown 
chronicity. Transferred for further evaluation. 

#NSTEMI/CAD: 
Patient presented to ___ from nursing home after reporting 2 
days of upper back pain and nausea. Found to have elevated 
troponin (peak 0.35) and lateral TWI of unknown chronicity. 
Started on heparin gtt prior to transfer. ECHO with LVEF 50% and
hypokinesis in anterior septum and apex, consistent with LAD 
CAD. Discussion with family and Cardiologist, Dr. ___ 
GOC, treating medically and no invasive coronary angiography at 
this time.  Treated with IV heparin for 48hours. No arrhythmias 
on telemetry and hemodynamics remained stable. 
- ___ management: Continue Aspirin 81mg daily, lifelong. Add 
Atorvastatin 80mg daily. PCP to monitor LFTs on-going. 
- Continue home Metoprolol XL 25mg daily
- Follow up with PCP for further medical management 

#GOC
The patient has order and MOLST for DNR/DNI/DNH. In initial 
discussion with ED at ___, family and pt wishes included 
having coronary angiography. After discussion with Cardiologist, 
family in agreement with medical management and to continue 
patients wishes of DNR/DNI/DNH. 
- MOLST form in chart from ___ & ___

# Decreased left leg mobility and pain: patient noted to have 
decreased mobility of left leg and telling staff "I am here 
because I fell." NH without any documentation of fall and pt 
poor historian. Decreased mobility noted, with positive passive 
motion to left leg and pain to palpation. However, moving leg 
more throughout the day. No neurological changes and no 
complaint of symptoms to think patient fell and hit head. 
- Xray of left hip/femur/knee with chronic fracture and 
demineralization; no acute fracture or break. 
- ___ consulted and recommending rehab for strength and 
conditioning 

CHRONIC ISSUES:
---------------
#Dementia, advanced
Patient lacks capacity to make advanced medical decisions. 
History of sundowning at night time. Patient son, ___ is HCP.
- Delirium precautions
- Fall precautions 

# Dispo: Return to ___ and ___ STR for 
increased mobilization and strength 
  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
3. melatonin 5 mg oral QHS:PRN insomnia 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. TraZODone 50 mg PO QHS:PRN insomnia 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  melatonin 5 mg oral QHS:PRN insomnia  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  TraZODone 50 mg PO QHS:PRN insomnia  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Non ST elevation myocardial infarction (NSTEMI)
Coronary artery disease
NSTEMI
Decreased mobility of left leg and deconditioning 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear MS. ___,  

 It was a pleasure taking care of you at the ___ 
___.  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
- You presented to ___ on ___ after 
experiencing back pain and vomiting at home. Lab work revealed 
you had a heart attack. You were transferred to ___ 
___ in ___ for further management 
 
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
- In discussion with your family, we decided to treat your heart 
attack with medications. We started aspirin and atorvastatin and 
continued your home Metoprolol. 
- We noted decreased mobility of your left leg- Xrays showed 
chronic changes, but no acute fractures. Our physical therapists 
recommended that you have short term rehab for increased 
strength and mobility. 
 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
- Take all of your medications as prescribed (listed below).  
- Follow up with your doctors as listed below  
 
If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist.  

It was a pleasure participating in your care.  

If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  
 
-Your ___ Care Team  
 
Followup Instructions:
___